US04312870
The mixture of 3.0 g of 2-(p-chlorophenyl)-pyrazolo[4,3-c]quinolin-3(5H)-one and 100 ml of dimethyl sulfate is stirred at 110°-130° for 2 hours and evaporated. The residue is dissolved in N aqueous sodium hydroxide, the solution extracted with methylene chloride and the extract evaporated. The residue is recrystallized from diethyl ether, to yield the 1-methyl-2-(p-chlorophenyl)-pyrazolo[4,3-c]quinolin-3-one melting at 158°-161°.

reactant | 2-(p-chlorophenyl)-pyrazolo[4,3-c]quinolin-3(5H)-one | 3.0 g | ClC1=CC=C(C=C1)N1N=C2C(=CNC=3C=CC=CC23)C1=O | C16H10ClN3O
reactant | dimethyl sulfate | 100 ml | S(=O)(=O)(OC)OC | C2H6O4S
product | 1-methyl-2-(p-chlorophenyl)-pyrazolo[4,3-c]quinolin-3-one | CN1N(C(C=2C=NC=3C=CC=CC3C21)=O)C2=CC=C(C=C2)Cl | C17H12ClN3O
